** Name: SimpleTwoStageOpAmp_SimpleOpAmp76_7

.MACRO SimpleTwoStageOpAmp_SimpleOpAmp76_7 ibias in1 in2 out sourceNmos sourcePmos
mDiodeTransistorNmos1 inputVoltageBiasXXnXX3 inputVoltageBiasXXnXX3 sourceNmos sourceNmos nmos4 L=2e-6 W=220e-6
mDiodeTransistorNmos2 inputVoltageBiasXXnXX2 inputVoltageBiasXXnXX2 sourceNmos sourceNmos nmos4 L=1e-6 W=10e-6
mDiodeTransistorNmos3 outInputVoltageBiasXXnXX1 outInputVoltageBiasXXnXX1 VoltageBiasXXnXX1Yinner VoltageBiasXXnXX1Yinner nmos4 L=8e-6 W=237e-6
mDiodeTransistorNmos4 outSourceVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=8e-6 W=50e-6
mDiodeTransistorNmos5 FirstStageYinnerSourceLoad2 FirstStageYinnerSourceLoad2 sourceNmos sourceNmos nmos4 L=10e-6 W=103e-6
mDiodeTransistorPmos6 ibias ibias outSourceVoltageBiasXXpXX1 outSourceVoltageBiasXXpXX1 pmos4 L=2e-6 W=11e-6
mDiodeTransistorPmos7 outSourceVoltageBiasXXpXX1 outSourceVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=2e-6 W=21e-6
mNormalTransistorNmos8 out inputVoltageBiasXXnXX3 sourceNmos sourceNmos nmos4 L=2e-6 W=570e-6
mNormalTransistorNmos9 outFirstStage inputVoltageBiasXXnXX2 FirstStageYinnerTransistorStack2Load2 FirstStageYinnerTransistorStack2Load2 nmos4 L=1e-6 W=10e-6
mNormalTransistorNmos10 FirstStageYinnerTransistorStack2Load2 FirstStageYinnerSourceLoad2 sourceNmos sourceNmos nmos4 L=10e-6 W=103e-6
mNormalTransistorNmos11 FirstStageYsourceGCC1 in1 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=3e-6 W=11e-6
mNormalTransistorNmos12 FirstStageYsourceGCC2 in2 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=3e-6 W=11e-6
mNormalTransistorNmos13 FirstStageYsourceTransconductance outInputVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 nmos4 L=8e-6 W=50e-6
mNormalTransistorNmos14 VoltageBiasXXnXX1Yinner outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=8e-6 W=237e-6
mNormalTransistorPmos15 inputVoltageBiasXXnXX3 outSourceVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=2e-6 W=594e-6
mNormalTransistorPmos16 inputVoltageBiasXXnXX2 outSourceVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=2e-6 W=440e-6
mNormalTransistorPmos17 out outFirstStage sourcePmos sourcePmos pmos4 L=7e-6 W=500e-6
mNormalTransistorPmos18 outFirstStage ibias FirstStageYsourceGCC2 FirstStageYsourceGCC2 pmos4 L=2e-6 W=24e-6
mNormalTransistorPmos19 outInputVoltageBiasXXnXX1 outSourceVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=2e-6 W=194e-6
mNormalTransistorPmos20 FirstStageYinnerSourceLoad2 ibias FirstStageYsourceGCC1 FirstStageYsourceGCC1 pmos4 L=2e-6 W=24e-6
mNormalTransistorPmos21 FirstStageYsourceGCC1 outSourceVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=2e-6 W=61e-6
mNormalTransistorPmos22 FirstStageYsourceGCC2 outSourceVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=2e-6 W=61e-6
Capacitor1 out sourceNmos 10e-12
Capacitor2 outFirstStage out 3.20001e-12
.EOM SimpleTwoStageOpAmp_SimpleOpAmp76_7

** Expected Performance Values: 
** Gain: 115 dB
** Power consumption: 6.97401 mW
** Area: 14678 (mu_m)^2
** Transit frequency: 5.49201 MHz
** Transit frequency with error factor: 5.49233 MHz
** Slew rate: 6.15609 V/mu_s
** Phase margin: 65.3172°
** CMRR: 142 dB
** VoutMax: 4.25 V
** VoutMin: 0.170001 V
** VcmMax: 5.17001 V
** VcmMin: 1.37001 V


** Expected Currents: 
** NormalTransistorPmos: -94.2399 muA
** NormalTransistorPmos: -211.21 muA
** NormalTransistorPmos: -284.762 muA
** NormalTransistorPmos: -19.7549 muA
** NormalTransistorPmos: -29.6319 muA
** NormalTransistorPmos: -19.7549 muA
** NormalTransistorPmos: -29.6319 muA
** DiodeTransistorNmos: 19.7541 muA
** NormalTransistorNmos: 19.7541 muA
** NormalTransistorNmos: 19.7541 muA
** NormalTransistorNmos: 19.7551 muA
** DiodeTransistorNmos: 19.7541 muA
** NormalTransistorNmos: 9.87801 muA
** NormalTransistorNmos: 9.87801 muA
** NormalTransistorNmos: 725.243 muA
** NormalTransistorPmos: -725.242 muA
** DiodeTransistorNmos: 94.2391 muA
** NormalTransistorNmos: 94.2381 muA
** DiodeTransistorNmos: 211.211 muA
** DiodeTransistorNmos: 284.763 muA
** DiodeTransistorPmos: -9.99899 muA
** DiodeTransistorPmos: -9.99999 muA


** Expected Voltages: 
** ibias: 3.32201  V
** in1: 2.5  V
** in2: 2.5  V
** inputVoltageBiasXXnXX2: 0.907001  V
** inputVoltageBiasXXnXX3: 0.579001  V
** out: 2.5  V
** outFirstStage: 3.68601  V
** outInputVoltageBiasXXnXX1: 1.19601  V
** outSourceVoltageBiasXXnXX1: 0.598001  V
** outSourceVoltageBiasXXpXX1: 4.20401  V
** sourceNmos: 0  V
** sourcePmos: 5  V
** innerSourceLoad2: 0.555001  V
** innerTransistorStack2Load2: 0.350001  V
** sourceGCC1: 4.18801  V
** sourceGCC2: 4.18801  V
** sourceTransconductance: 1.91601  V
** inner: 0.597001  V


.END