** Name: SimpleTwoStageOpAmp_SimpleOpAmp79_5

.MACRO SimpleTwoStageOpAmp_SimpleOpAmp79_5 ibias in1 in2 out sourceNmos sourcePmos
mDiodeTransistorNmos1 ibias ibias sourceNmos sourceNmos nmos4 L=3e-6 W=6e-6
mDiodeTransistorNmos2 outVoltageBiasXXnXX1 outVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=1e-6 W=12e-6
mDiodeTransistorPmos3 inputVoltageBiasXXpXX2 inputVoltageBiasXXpXX2 outSourceVoltageBiasXXpXX2 outSourceVoltageBiasXXpXX2 pmos4 L=7e-6 W=16e-6
mDiodeTransistorPmos4 outInputVoltageBiasXXpXX1 outInputVoltageBiasXXpXX1 VoltageBiasXXpXX1Yinner VoltageBiasXXpXX1Yinner pmos4 L=1e-6 W=10e-6
mDiodeTransistorPmos5 outSourceVoltageBiasXXpXX1 outSourceVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=1e-6 W=378e-6
mDiodeTransistorPmos6 outSourceVoltageBiasXXpXX2 outSourceVoltageBiasXXpXX2 sourcePmos sourcePmos pmos4 L=7e-6 W=23e-6
mNormalTransistorNmos7 inputVoltageBiasXXpXX2 ibias sourceNmos sourceNmos nmos4 L=3e-6 W=14e-6
mNormalTransistorNmos8 out outFirstStage sourceNmos sourceNmos nmos4 L=2e-6 W=325e-6
mNormalTransistorNmos9 outFirstStage outVoltageBiasXXnXX1 FirstStageYinnerTransistorStack2Load2 FirstStageYinnerTransistorStack2Load2 nmos4 L=1e-6 W=35e-6
mNormalTransistorNmos10 outInputVoltageBiasXXpXX1 ibias sourceNmos sourceNmos nmos4 L=3e-6 W=37e-6
mNormalTransistorNmos11 FirstStageYinnerStageBias ibias sourceNmos sourceNmos nmos4 L=3e-6 W=41e-6
mNormalTransistorNmos12 FirstStageYinnerTransistorStack1Load2 FirstStageYout1 sourceNmos sourceNmos nmos4 L=5e-6 W=88e-6
mNormalTransistorNmos13 FirstStageYinnerTransistorStack2Load2 FirstStageYout1 sourceNmos sourceNmos nmos4 L=5e-6 W=88e-6
mNormalTransistorNmos14 FirstStageYout1 outVoltageBiasXXnXX1 FirstStageYinnerTransistorStack1Load2 FirstStageYinnerTransistorStack1Load2 nmos4 L=1e-6 W=35e-6
mNormalTransistorNmos15 FirstStageYsourceGCC1 in1 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=7e-6 W=37e-6
mNormalTransistorNmos16 FirstStageYsourceGCC2 in2 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=7e-6 W=37e-6
mNormalTransistorNmos17 FirstStageYsourceTransconductance outVoltageBiasXXnXX1 FirstStageYinnerStageBias FirstStageYinnerStageBias nmos4 L=1e-6 W=26e-6
mNormalTransistorPmos18 out outInputVoltageBiasXXpXX1 outSourceVoltageBiasXXpXX1 outSourceVoltageBiasXXpXX1 pmos4 L=1e-6 W=378e-6
mNormalTransistorPmos19 outFirstStage inputVoltageBiasXXpXX2 FirstStageYsourceGCC2 FirstStageYsourceGCC2 pmos4 L=7e-6 W=131e-6
mNormalTransistorPmos20 outVoltageBiasXXnXX1 outSourceVoltageBiasXXpXX2 sourcePmos sourcePmos pmos4 L=7e-6 W=380e-6
mNormalTransistorPmos21 FirstStageYout1 inputVoltageBiasXXpXX2 FirstStageYsourceGCC1 FirstStageYsourceGCC1 pmos4 L=7e-6 W=131e-6
mNormalTransistorPmos22 FirstStageYsourceGCC1 outSourceVoltageBiasXXpXX2 sourcePmos sourcePmos pmos4 L=7e-6 W=98e-6
mNormalTransistorPmos23 FirstStageYsourceGCC2 outSourceVoltageBiasXXpXX2 sourcePmos sourcePmos pmos4 L=7e-6 W=98e-6
mNormalTransistorPmos24 VoltageBiasXXpXX1Yinner outSourceVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=1e-6 W=10e-6
Capacitor1 out sourceNmos 10e-12
Capacitor2 outFirstStage out 8.90001e-12
.EOM SimpleTwoStageOpAmp_SimpleOpAmp79_5

** Expected Performance Values: 
** Gain: 120 dB
** Power consumption: 14.9991 mW
** Area: 9365 (mu_m)^2
** Transit frequency: 4.36201 MHz
** Transit frequency with error factor: 4.36221 MHz
** Slew rate: 7.48088 V/mu_s
** Phase margin: 65.3172°
** CMRR: 132 dB
** VoutMax: 3.26001 V
** VoutMin: 0.410001 V
** VcmMax: 4.78001 V
** VcmMin: 1.5 V


** Expected Currents: 
** NormalTransistorNmos: 60.5371 muA
** NormalTransistorNmos: 23.2061 muA
** NormalTransistorPmos: -381.636 muA
** NormalTransistorPmos: -66.6629 muA
** NormalTransistorPmos: -100.203 muA
** NormalTransistorPmos: -66.6629 muA
** NormalTransistorPmos: -100.203 muA
** NormalTransistorNmos: 66.6621 muA
** NormalTransistorNmos: 66.6611 muA
** NormalTransistorNmos: 66.6621 muA
** NormalTransistorNmos: 66.6611 muA
** NormalTransistorNmos: 67.0801 muA
** NormalTransistorNmos: 67.0811 muA
** NormalTransistorNmos: 33.5401 muA
** NormalTransistorNmos: 33.5401 muA
** NormalTransistorNmos: 2324.11 muA
** NormalTransistorPmos: -2324.1 muA
** DiodeTransistorPmos: -2324.1 muA
** DiodeTransistorNmos: 381.637 muA
** DiodeTransistorNmos: 9.99901 muA
** DiodeTransistorPmos: -60.5379 muA
** NormalTransistorPmos: -60.5389 muA
** DiodeTransistorPmos: -23.2069 muA
** DiodeTransistorPmos: -23.2079 muA


** Expected Voltages: 
** ibias: 0.647001  V
** in1: 2.5  V
** in2: 2.5  V
** inputVoltageBiasXXpXX2: 2.49201  V
** out: 2.5  V
** outFirstStage: 0.816001  V
** outInputVoltageBiasXXpXX1: 2.69901  V
** outSourceVoltageBiasXXpXX1: 3.85201  V
** outSourceVoltageBiasXXpXX2: 3.80601  V
** outVoltageBiasXXnXX1: 1.02101  V
** sourceNmos: 0  V
** sourcePmos: 5  V
** innerStageBias: 0.442001  V
** innerTransistorStack1Load2: 0.466001  V
** innerTransistorStack2Load2: 0.466001  V
** out1: 0.616001  V
** sourceGCC1: 3.50101  V
** sourceGCC2: 3.50101  V
** sourceTransconductance: 1.82101  V
** inner: 3.84301  V


.END