** Name: SimpleTwoStageOpAmp_SimpleOpAmp81_1

.MACRO SimpleTwoStageOpAmp_SimpleOpAmp81_1 ibias in1 in2 out sourceNmos sourcePmos
mDiodeTransistorNmos1 outSourceVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=7e-6 W=36e-6
mDiodeTransistorNmos2 FirstStageYout1 FirstStageYout1 FirstStageYinnerTransistorStack1Load2 FirstStageYinnerTransistorStack1Load2 nmos4 L=10e-6 W=97e-6
mDiodeTransistorNmos3 FirstStageYinnerTransistorStack2Load2 FirstStageYinnerTransistorStack2Load2 sourceNmos sourceNmos nmos4 L=9e-6 W=97e-6
mDiodeTransistorNmos4 ibias ibias outSourceVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 nmos4 L=7e-6 W=29e-6
mDiodeTransistorPmos5 outVoltageBiasXXpXX2 outVoltageBiasXXpXX2 sourcePmos sourcePmos pmos4 L=1e-6 W=93e-6
mDiodeTransistorPmos6 outVoltageBiasXXpXX1 outVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=1e-6 W=13e-6
mNormalTransistorNmos7 outFirstStage FirstStageYout1 FirstStageYinnerTransistorStack2Load2 FirstStageYinnerTransistorStack2Load2 nmos4 L=10e-6 W=97e-6
mNormalTransistorNmos8 out outFirstStage sourceNmos sourceNmos nmos4 L=7e-6 W=134e-6
mNormalTransistorNmos9 outVoltageBiasXXpXX2 outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=7e-6 W=308e-6
mNormalTransistorNmos10 outVoltageBiasXXpXX1 outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=7e-6 W=478e-6
mNormalTransistorNmos11 FirstStageYsourceTransconductance ibias FirstStageYinnerStageBias FirstStageYinnerStageBias nmos4 L=7e-6 W=81e-6
mNormalTransistorNmos12 FirstStageYsourceGCC2 in2 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=10e-6 W=31e-6
mNormalTransistorNmos13 FirstStageYinnerStageBias outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=7e-6 W=86e-6
mNormalTransistorNmos14 FirstStageYsourceGCC1 in1 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=10e-6 W=31e-6
mNormalTransistorNmos15 FirstStageYinnerTransistorStack1Load2 FirstStageYinnerTransistorStack2Load2 sourceNmos sourceNmos nmos4 L=9e-6 W=97e-6
mNormalTransistorPmos16 outFirstStage outVoltageBiasXXpXX1 FirstStageYsourceGCC2 FirstStageYsourceGCC2 pmos4 L=1e-6 W=14e-6
mNormalTransistorPmos17 out outVoltageBiasXXpXX2 sourcePmos sourcePmos pmos4 L=1e-6 W=462e-6
mNormalTransistorPmos18 FirstStageYsourceGCC2 outVoltageBiasXXpXX2 sourcePmos sourcePmos pmos4 L=1e-6 W=36e-6
mNormalTransistorPmos19 FirstStageYsourceGCC1 outVoltageBiasXXpXX2 sourcePmos sourcePmos pmos4 L=1e-6 W=36e-6
mNormalTransistorPmos20 FirstStageYout1 outVoltageBiasXXpXX1 FirstStageYsourceGCC1 FirstStageYsourceGCC1 pmos4 L=1e-6 W=14e-6
Capacitor1 outFirstStage out 3.40001e-12
Capacitor2 out sourceNmos 10e-12
.EOM SimpleTwoStageOpAmp_SimpleOpAmp81_1

** Expected Performance Values: 
** Gain: 118 dB
** Power consumption: 3.52801 mW
** Area: 13038 (mu_m)^2
** Transit frequency: 5.13301 MHz
** Transit frequency with error factor: 5.13257 MHz
** Slew rate: 6.39251 V/mu_s
** Phase margin: 65.3172°
** CMRR: 140 dB
** VoutMax: 4.78001 V
** VoutMin: 0.510001 V
** VcmMax: 5.18001 V
** VcmMin: 1.33001 V


** Expected Currents: 
** NormalTransistorNmos: 131.994 muA
** NormalTransistorNmos: 84.9831 muA
** NormalTransistorPmos: -20.5279 muA
** NormalTransistorPmos: -32.2669 muA
** NormalTransistorPmos: -20.5279 muA
** NormalTransistorPmos: -32.2669 muA
** DiodeTransistorNmos: 20.5271 muA
** NormalTransistorNmos: 20.5281 muA
** NormalTransistorNmos: 20.5271 muA
** DiodeTransistorNmos: 20.5281 muA
** NormalTransistorNmos: 23.4771 muA
** NormalTransistorNmos: 23.4781 muA
** NormalTransistorNmos: 11.7381 muA
** NormalTransistorNmos: 11.7381 muA
** NormalTransistorNmos: 414.039 muA
** NormalTransistorPmos: -414.038 muA
** DiodeTransistorNmos: 9.99901 muA
** DiodeTransistorNmos: 9.99801 muA
** DiodeTransistorPmos: -131.993 muA
** DiodeTransistorPmos: -84.9839 muA


** Expected Voltages: 
** ibias: 1.13001  V
** in1: 2.5  V
** in2: 2.5  V
** out: 2.5  V
** outFirstStage: 0.913001  V
** outSourceVoltageBiasXXnXX1: 0.556001  V
** outVoltageBiasXXpXX1: 3.68601  V
** outVoltageBiasXXpXX2: 4.21101  V
** sourceNmos: 0  V
** sourcePmos: 5  V
** innerStageBias: 0.570001  V
** innerTransistorStack1Load2: 0.555001  V
** innerTransistorStack2Load2: 0.555001  V
** out1: 1.11801  V
** sourceGCC1: 4.53601  V
** sourceGCC2: 4.53601  V
** sourceTransconductance: 1.88301  V


.END