** Name: SimpleTwoStageOpAmp_SimpleOpAmp82_1

.MACRO SimpleTwoStageOpAmp_SimpleOpAmp82_1 ibias in1 in2 out sourceNmos sourcePmos
mDiodeTransistorNmos1 ibias ibias VoltageBiasXXnXX1Yinner VoltageBiasXXnXX1Yinner nmos4 L=10e-6 W=26e-6
mDiodeTransistorNmos2 FirstStageYinnerTransistorStack2Load2 FirstStageYinnerTransistorStack2Load2 sourceNmos sourceNmos nmos4 L=2e-6 W=20e-6
mDiodeTransistorNmos3 FirstStageYout1 FirstStageYout1 FirstStageYinnerTransistorStack1Load2 FirstStageYinnerTransistorStack1Load2 nmos4 L=2e-6 W=20e-6
mDiodeTransistorNmos4 outSourceVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=10e-6 W=110e-6
mDiodeTransistorPmos5 outVoltageBiasXXpXX1 outVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=4e-6 W=14e-6
mDiodeTransistorPmos6 outVoltageBiasXXpXX2 outVoltageBiasXXpXX2 sourcePmos sourcePmos pmos4 L=1e-6 W=121e-6
mNormalTransistorNmos7 outFirstStage FirstStageYout1 FirstStageYinnerTransistorStack2Load2 FirstStageYinnerTransistorStack2Load2 nmos4 L=2e-6 W=20e-6
mNormalTransistorNmos8 out outFirstStage sourceNmos sourceNmos nmos4 L=8e-6 W=319e-6
mNormalTransistorNmos9 FirstStageYsourceTransconductance ibias outSourceVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 nmos4 L=10e-6 W=110e-6
mNormalTransistorNmos10 FirstStageYsourceGCC2 in2 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=4e-6 W=14e-6
mNormalTransistorNmos11 FirstStageYsourceGCC1 in1 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=4e-6 W=14e-6
mNormalTransistorNmos12 FirstStageYinnerTransistorStack1Load2 FirstStageYinnerTransistorStack2Load2 sourceNmos sourceNmos nmos4 L=2e-6 W=20e-6
mNormalTransistorNmos13 outVoltageBiasXXpXX1 outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=10e-6 W=92e-6
mNormalTransistorNmos14 outVoltageBiasXXpXX2 outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=10e-6 W=599e-6
mNormalTransistorNmos15 VoltageBiasXXnXX1Yinner outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=10e-6 W=26e-6
mNormalTransistorPmos16 outFirstStage outVoltageBiasXXpXX1 FirstStageYsourceGCC2 FirstStageYsourceGCC2 pmos4 L=4e-6 W=130e-6
mNormalTransistorPmos17 out outVoltageBiasXXpXX2 sourcePmos sourcePmos pmos4 L=1e-6 W=588e-6
mNormalTransistorPmos18 FirstStageYsourceGCC2 outVoltageBiasXXpXX2 sourcePmos sourcePmos pmos4 L=1e-6 W=27e-6
mNormalTransistorPmos19 FirstStageYsourceGCC1 outVoltageBiasXXpXX2 sourcePmos sourcePmos pmos4 L=1e-6 W=27e-6
mNormalTransistorPmos20 FirstStageYout1 outVoltageBiasXXpXX1 FirstStageYsourceGCC1 FirstStageYsourceGCC1 pmos4 L=4e-6 W=130e-6
Capacitor1 outFirstStage out 5.80001e-12
Capacitor2 out sourceNmos 10e-12
.EOM SimpleTwoStageOpAmp_SimpleOpAmp82_1

** Expected Performance Values: 
** Gain: 118 dB
** Power consumption: 7.33601 mW
** Area: 14313 (mu_m)^2
** Transit frequency: 4.29801 MHz
** Transit frequency with error factor: 4.29757 MHz
** Slew rate: 6.09802 V/mu_s
** Phase margin: 65.3172°
** CMRR: 137 dB
** VoutMax: 4.68001 V
** VoutMin: 0.570001 V
** VcmMax: 5.08001 V
** VcmMin: 1.5 V


** Expected Currents: 
** NormalTransistorNmos: 35.5351 muA
** NormalTransistorNmos: 227.769 muA
** NormalTransistorPmos: -29.2759 muA
** NormalTransistorPmos: -50.1899 muA
** NormalTransistorPmos: -29.2779 muA
** NormalTransistorPmos: -50.1919 muA
** DiodeTransistorNmos: 29.2751 muA
** NormalTransistorNmos: 29.2761 muA
** NormalTransistorNmos: 29.2771 muA
** DiodeTransistorNmos: 29.2761 muA
** NormalTransistorNmos: 41.8271 muA
** DiodeTransistorNmos: 41.8281 muA
** NormalTransistorNmos: 20.9131 muA
** NormalTransistorNmos: 20.9131 muA
** NormalTransistorNmos: 1093.45 muA
** NormalTransistorPmos: -1093.44 muA
** DiodeTransistorNmos: 9.99901 muA
** NormalTransistorNmos: 9.99801 muA
** DiodeTransistorPmos: -35.5359 muA
** DiodeTransistorPmos: -227.768 muA


** Expected Voltages: 
** ibias: 1.23401  V
** in1: 2.5  V
** in2: 2.5  V
** out: 2.5  V
** outFirstStage: 0.977001  V
** outSourceVoltageBiasXXnXX1: 0.618001  V
** outVoltageBiasXXpXX1: 3.68601  V
** outVoltageBiasXXpXX2: 4.11201  V
** sourceNmos: 0  V
** sourcePmos: 5  V
** innerTransistorStack1Load2: 0.591001  V
** innerTransistorStack2Load2: 0.591001  V
** out1: 1.18201  V
** sourceGCC1: 4.47401  V
** sourceGCC2: 4.47401  V
** sourceTransconductance: 1.82901  V
** inner: 0.615001  V


.END