** Name: SimpleTwoStageOpAmp_SimpleOpAmp82_5

.MACRO SimpleTwoStageOpAmp_SimpleOpAmp82_5 ibias in1 in2 out sourceNmos sourcePmos
mDiodeTransistorNmos1 ibias ibias VoltageBiasXXnXX1Yinner VoltageBiasXXnXX1Yinner nmos4 L=10e-6 W=52e-6
mDiodeTransistorNmos2 outSourceVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=10e-6 W=136e-6
mDiodeTransistorNmos3 FirstStageYinnerTransistorStack2Load2 FirstStageYinnerTransistorStack2Load2 sourceNmos sourceNmos nmos4 L=6e-6 W=64e-6
mDiodeTransistorNmos4 FirstStageYout1 FirstStageYout1 FirstStageYinnerTransistorStack1Load2 FirstStageYinnerTransistorStack1Load2 nmos4 L=9e-6 W=64e-6
mDiodeTransistorPmos5 inputVoltageBiasXXpXX2 inputVoltageBiasXXpXX2 outSourceVoltageBiasXXpXX2 outSourceVoltageBiasXXpXX2 pmos4 L=7e-6 W=7e-6
mDiodeTransistorPmos6 outInputVoltageBiasXXpXX1 outInputVoltageBiasXXpXX1 VoltageBiasXXpXX1Yinner VoltageBiasXXpXX1Yinner pmos4 L=1e-6 W=14e-6
mDiodeTransistorPmos7 outSourceVoltageBiasXXpXX1 outSourceVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=1e-6 W=583e-6
mDiodeTransistorPmos8 outSourceVoltageBiasXXpXX2 outSourceVoltageBiasXXpXX2 sourcePmos sourcePmos pmos4 L=7e-6 W=10e-6
mNormalTransistorNmos9 inputVoltageBiasXXpXX2 outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=10e-6 W=32e-6
mNormalTransistorNmos10 out outFirstStage sourceNmos sourceNmos nmos4 L=5e-6 W=568e-6
mNormalTransistorNmos11 outFirstStage FirstStageYout1 FirstStageYinnerTransistorStack2Load2 FirstStageYinnerTransistorStack2Load2 nmos4 L=9e-6 W=64e-6
mNormalTransistorNmos12 outInputVoltageBiasXXpXX1 outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=10e-6 W=354e-6
mNormalTransistorNmos13 FirstStageYinnerTransistorStack1Load2 FirstStageYinnerTransistorStack2Load2 sourceNmos sourceNmos nmos4 L=6e-6 W=64e-6
mNormalTransistorNmos14 FirstStageYsourceGCC1 in1 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=5e-6 W=21e-6
mNormalTransistorNmos15 FirstStageYsourceGCC2 in2 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=5e-6 W=21e-6
mNormalTransistorNmos16 FirstStageYsourceTransconductance ibias outSourceVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 nmos4 L=10e-6 W=136e-6
mNormalTransistorNmos17 VoltageBiasXXnXX1Yinner outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=10e-6 W=52e-6
mNormalTransistorPmos18 out outInputVoltageBiasXXpXX1 outSourceVoltageBiasXXpXX1 outSourceVoltageBiasXXpXX1 pmos4 L=1e-6 W=583e-6
mNormalTransistorPmos19 outFirstStage inputVoltageBiasXXpXX2 FirstStageYsourceGCC2 FirstStageYsourceGCC2 pmos4 L=7e-6 W=24e-6
mNormalTransistorPmos20 FirstStageYout1 inputVoltageBiasXXpXX2 FirstStageYsourceGCC1 FirstStageYsourceGCC1 pmos4 L=7e-6 W=24e-6
mNormalTransistorPmos21 FirstStageYsourceGCC1 outSourceVoltageBiasXXpXX2 sourcePmos sourcePmos pmos4 L=7e-6 W=54e-6
mNormalTransistorPmos22 FirstStageYsourceGCC2 outSourceVoltageBiasXXpXX2 sourcePmos sourcePmos pmos4 L=7e-6 W=54e-6
mNormalTransistorPmos23 VoltageBiasXXpXX1Yinner outSourceVoltageBiasXXpXX1 sourcePmos sourcePmos pmos4 L=1e-6 W=14e-6
Capacitor1 out sourceNmos 10e-12
Capacitor2 outFirstStage out 3.80001e-12
.EOM SimpleTwoStageOpAmp_SimpleOpAmp82_5

** Expected Performance Values: 
** Gain: 120 dB
** Power consumption: 14.5491 mW
** Area: 14995 (mu_m)^2
** Transit frequency: 5.63901 MHz
** Transit frequency with error factor: 5.63937 MHz
** Slew rate: 6.03382 V/mu_s
** Phase margin: 65.3172°
** CMRR: 133 dB
** VoutMax: 3.40001 V
** VoutMin: 0.530001 V
** VcmMax: 4.91001 V
** VcmMin: 1.30001 V


** Expected Currents: 
** NormalTransistorNmos: 67.5451 muA
** NormalTransistorNmos: 6.15601 muA
** NormalTransistorPmos: -20.3169 muA
** NormalTransistorPmos: -33.2689 muA
** NormalTransistorPmos: -20.3169 muA
** NormalTransistorPmos: -33.2689 muA
** DiodeTransistorNmos: 20.3161 muA
** NormalTransistorNmos: 20.3171 muA
** NormalTransistorNmos: 20.3161 muA
** DiodeTransistorNmos: 20.3171 muA
** NormalTransistorNmos: 25.9031 muA
** DiodeTransistorNmos: 25.9031 muA
** NormalTransistorNmos: 12.9511 muA
** NormalTransistorNmos: 12.9511 muA
** NormalTransistorNmos: 2759.47 muA
** NormalTransistorPmos: -2759.46 muA
** DiodeTransistorPmos: -2759.46 muA
** DiodeTransistorNmos: 9.99901 muA
** NormalTransistorNmos: 9.99801 muA
** DiodeTransistorPmos: -67.5459 muA
** NormalTransistorPmos: -67.5449 muA
** DiodeTransistorPmos: -6.15699 muA
** DiodeTransistorPmos: -6.15799 muA


** Expected Voltages: 
** ibias: 1.11001  V
** in1: 2.5  V
** in2: 2.5  V
** inputVoltageBiasXXpXX2: 2.79001  V
** out: 2.5  V
** outFirstStage: 0.938001  V
** outInputVoltageBiasXXpXX1: 2.83801  V
** outSourceVoltageBiasXXnXX1: 0.555001  V
** outSourceVoltageBiasXXpXX1: 3.91901  V
** outSourceVoltageBiasXXpXX2: 3.94301  V
** sourceNmos: 0  V
** sourcePmos: 5  V
** innerTransistorStack1Load2: 0.554001  V
** innerTransistorStack2Load2: 0.555001  V
** out1: 1.14301  V
** sourceGCC1: 3.92701  V
** sourceGCC2: 3.92701  V
** sourceTransconductance: 1.90401  V
** inner: 0.554001  V
** inner: 3.92001  V


.END